US06943179B2
1.2 0.032 ml of trichloromethyl chloroformate is added under a nitrogen atmosphere to a solution of 50 mg of 1-(4-aminophenyl)piperidin-2-one (prepared from 1-(4-nitrophenyl)piperidin-2-one by hydrogenation using Raney nickel as catalyst) in 5 ml of THF, and the mixture is subsequently refluxed for 1.5 hours, giving 1-(4-isocyanatophenyl)piperidin-2-one (“AB”).

reactant | trichloromethyl chloroformate | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 1-(4-aminophenyl)piperidin-2-one | 50 mg | NC1=CC=C(C=C1)N1C(CCCC1)=O | C11H14N2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-isocyanatophenyl)piperidin-2-one | N(=C=O)C1=CC=C(C=C1)N1C(CCCC1)=O | C12H12N2O2
